US06770667B1
To a solution of 2-methoxycarbonyl-5-(4-fluorophenyl)thiophene (1.15 g) in methanol (10 ml) and tetrahydrofuran (10 ml) was added an aqueous solution of sodium hydroxide (1N, 7.3 ml) followed by stirring at 60° C. for 3 hours. To the mixture was added hydrochloric acid (1N, 8 ml). The resulting precipitate was collected by filtration and dried to give 5-(4-fluorophenyl)thiophene-2-carboxylic acid (1.06 g, 98.1%).

reactant | 2-methoxycarbonyl-5-(4-fluorophenyl)thiophene | 1.15 g | COC(=O)C=1SC(=CC1)C1=CC=C(C=C1)F | C12H9FO2S
reactant | sodium hydroxide | 1N, 7.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 8 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)thiophene-2-carboxylic acid | 1.06 g, 98.1% | FC1=CC=C(C=C1)C1=CC=C(S1)C(=O)O | C11H7FO2S
